US09328096B2
2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-fluoro-5-(3-fluoropyridin-2-yl)benzamide
To a solution of 2-chloro-4-fluoro-5-(3-fluoropyridin-2-yl)benzoic acid (Preparation 21, 160 mg, 0.59 mmol) in 2-Methyl-THF (3 mL) was added 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (Preparation 53, 120 mg, 0.65 mmol) and pyridine (0.14 mL, 1.77 mmol). The reaction was heated to 90° C. before the addition of propylphosphonic anhydride (752 mg, 1.18 mmol) and the reaction was continued heating at 90° C. for 16 hours. Further propylphosphonic anhydride (752 mg, 1.18 mmol) was added and the reaction continued to heat at 90° C. for 3 hours. The reaction was cooled to room temperature, diluted with EtOAc (20 mL) and washed with 2M NaOH(aq) (2×20 mL), saturated aqueous NH4Cl solution (20 mL), water (20 mL) and brine (20 mL). The organic layer was dried over magnesium sulphate and concentrated in vacuo. The residue was purified using reverse phase column chromatography eluting from 5-60% MeCN (with 0.1% HCO2H) in water (with 0.1% HCO2H) to afford the title compound (89 mg, 34%).

reactant | 2-chloro-4-fluoro-5-(3-fluoropyridin-2-yl)benzoic acid | 0.59 mmol, 160 mg | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NC=CC=C1F | C12H6ClF2NO2
reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | 0.65 mmol, 120 mg | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
reactant | pyridine | 1.77 mmol, 0.14 mL | N1=CC=CC=C1 | C5H5N
reactant | propylphosphonic anhydride | 1.18 mmol, 752 mg | CCCP(=O)=O | C3H7O2P
reactant | propylphosphonic anhydride | 1.18 mmol, 752 mg | CCCP(=O)=O | C3H7O2P
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-fluoro-5-(3-fluoropyridin-2-yl)benzamide | 89 mg, 34% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C(=C1)F)C1=NC=CC=C1F | C22H12ClF2N5O
